US04352752
To 75 ml. of a solution of N-benzylidene-1(S)-t-butoxycarbonylethylamine (5.07 g., 21.7 mmol) and triethylamine (4.84 g., 47.8 mmol) in methylene chloride, there was gradually added dropwise 75 ml. of a solution of azidoacetyl chloride (5.19 g., 43.5 mmol) in methylene chloride at -78° C. After stirring at -78° C. to room temperature for 14 hours, the reaction mixture was washed with water and then with a saturated saline solution, followed by drying over anhydrous magnesium sulfate. After removal of the solvent by distillation, the residue was subjected to silica gel column chromatography, using hexane-ethyl acetate (3:1) as an eluent, to give 1-(1(S)-t-butoxycarbonylethyl)-3(S)-azido-4(R)-azetidin-2-one (2.68 g., yield: 39%) and 1-(1(S)-t-butoxycarbonylethyl)-3(R)-azido-4(S)-phenylazetidin-2-one (2.82 g., yield: 41%).

reactant | N-benzylidene-1(S)-t-butoxycarbonylethylamine | 21.7 mmol, 5.07 g | C(C1=CC=CC=C1)=N[C@@H](C)C(=O)OC(C)(C)C | C14H19NO2
reactant | triethylamine | 47.8 mmol, 4.84 g | C(C)N(CC)CC | C6H15N
reactant | azidoacetyl chloride | 43.5 mmol, 5.19 g | N(=[N+]=[N-])CC(=O)Cl | C2H2ClN3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(1(S)-t-butoxycarbonylethyl)-3(R)-azido-4(S)-phenylazetidin-2-one | 2.82 g, yield: 41% | C(C)(C)(C)OC(=O)[C@H](C)N1C([C@@H]([C@@H]1C1=CC=CC=C1)N=[N+]=[N-])=O | C16H20N4O3
